US06924285B2
4-[(3-chloro-4-fluoro-phenyl)amino]-6-((S)-pyrrolidin-3-yloxy)-7-methoxy-quinazoline-dihydrochloride
A solution of 370 mg 4-[(3-chloro-4-fluoro-phenyl)amino]-6-[(S)-1-(tert.-butyloxy-carbonyl)-pyrrolidin-3-yloxy]-7-methoxy-quinazoline in 5 ml dioxane is combined with 0.32 ml concentrated hydrochloric acid and stirred overnight at ambient temperature. The precipitate formed is suction filtered and washed with copious amounts of dioxane. The crude product is dissolved in a little methanol and re-precipitated by the addition of the same amount of ethyl acetate. The white solid thus obtained is suction filtered and dried.

reactant | 4-[(3-chloro-4-fluoro-phenyl)amino]-6-[(S)-1-(tert.-butyloxy-carbonyl)-pyrrolidin-3-yloxy]-7-methoxy-quinazoline | 370 mg | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C)OC | C24H26ClFN4O4
reactant | hydrochloric acid | 0.32 ml | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 4-[(3-chloro-4-fluoro-phenyl)amino]-6-((S)-pyrrolidin-3-yloxy)-7-methoxy-quinazoline-dihydrochloride | Cl.Cl.ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)O[C@@H]1CNCC1)OC | InChI=1S/C19H18ClFN4O2.2ClH/c1-26-17-8-16-13(7-18(17)27-12-4-5-22-9-12)19(24-10-23-16)25-11-2-3-15(21)14(20)6-11;;/h2-3,6-8,10,12,22H,4-5,9H2,1H3,(H,23,24,25);2*1H/t12-;;/m0../s1
